US05008274
To a solution of 2 g (7.35 mM) of 6-[3-(1,2,4-triazol-1-yl)propoxy]-3,4-dihydrocarbostyril with 20 ml of DMF was added 350 mg (8.8 mM) of sodium hydride (60% in oil) and the mixture was heated at 60° C. for 30 minutes. Then under ice-cooling condition, 0.6 ml (8.1 mM) of ethyl bromide was added dropwise, further the reaction mixture was stirred at room temperature for 3 hours. To the reaction mixture was added water, then extracted with chloroform, the chloroform layer was washed with water, dried with anhydrous sodium sulfate, and concentrated by removing the solvent by evaporation. The resulting residue was purified by means of a silica gel column chromatography (eluent: dichloromethane:methanol =30:1), then recrystallized from ethyl acetate-n-hexane to yield 1.8 g of 1-ethyl-6-[3-(1,2,4-triazol-1-yl)propoxy] -3,4-dihydrocarbostyril. Colorless needle-like crystals.

reactant | 6-[3-(1,2,4-triazol-1-yl)propoxy]-3,4-dihydrocarbostyril | 7.35 mM, 2 g | N1(N=CN=C1)CCCOC=1C=C2CCC(NC2=CC1)=O | C14H16N4O2
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 8.8 mM, 350 mg | [H-].[Na+]
reactant | ethyl bromide | 8.1 mM, 0.6 ml | C(C)Br | C2H5Br
solvent | water | O | H2O
product | 1-ethyl-6-[3-(1,2,4-triazol-1-yl)propoxy] -3,4-dihydrocarbostyril | 1.8 g | C(C)N1C(=O)CCC2=CC(=CC=C12)OCCCN1N=CN=C1 | C16H20N4O2
